US07423158B2
A solution of 4-(difluoromethoxy)phenyl iodide (4.70 g) in deoxygenated dimethylformamide was treated with trans-dichlorobis(triphenylphosphine) palladium(II) (244 mg) and copper(II) iodide 66 mg) followed by triethylamine (7.52 mL), stirred under a nitrogen atmosphere for 5min., treated with 3-hydroxyphenyl acetylene (2.467 g), stirred under nitrogen atmosphere for 16 h, poured into ethyl acetate and was washed with 0.05 N HCl and water. The organic phase was dried over MgSO4 and concentrated in vacuo. The residue was chromatographed, silica gel, 40% ethyl acetate/hexane as eluent, to afford 3-((4-(difluoromethoxy)phenyl)ethynyl)phenol as a tan solid, 5.40 g; 1H NMR (DMSO-d6): δ 9.64 (s, 1H), 7.56 (d, J=8.8 Hz, 2H), 7.27 (t, J=73.7 Hz, 1H), 7.17 (d, J=8.8 Hz, 2H), 7.16 (m, 1H), 6.94 (m, 1H), 6.86 (m, 1H), and 6.77 (m, 1H); MS (ES neg) m/z 260.

reactant | 4-(difluoromethoxy)phenyl iodide | 4.70 g | FC(OC1=CC=C(C=C1)I)F | C7H5F2IO
reactant | triethylamine | 7.52 mL | C(C)N(CC)CC | C6H15N
reactant | 3-hydroxyphenyl acetylene | 2.467 g | OC=1C=C(C=CC1)C#C | C8H6O
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dimethylformamide | CN(C=O)C | C3H7NO
catalyst | copper(II) iodide | 66 mg | [Cu](I)I
product | 3-((4-(difluoromethoxy)phenyl)ethynyl)phenol | FC(OC1=CC=C(C=C1)C#CC=1C=C(C=CC1)O)F | C15H10F2O2
